US07858796B2
(262) 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide
3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide (35 mg, 0.075 mmol) was reacted with sodium methoxide (0.5 M in methanol, 1.0 mL, 0.488 mmol) in a mixture of methanol (4 ml) and DMSO (0.5 mL) at reflux for 16 h to form the desired product which was purified by reverse phase HPLC eluting with 10% B to 70% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (15 mg, 43%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | 0.075 mmol, 35 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C21H24ClN3O3S2
reactant | sodium methoxide | 0.488 mmol, 0.5 M, 1.0 mL | C[O-].[Na+]
solvent | MeOH | 4 ml | CO | CH4O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | COCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C22H27N3O4S2
